US05444081
A mixture of 3-[(2-chlorophenyl)methyl-2-propylthio-N-butyrylhistidine ethyl ester (0.37 g, 0.819 mmole), ethanol (4 mL), water (4 mL) and potassium hydroxide pellets (0.098 g, 1.75 mmole) was stirred at 25° C. for 1 hour. The reaction was then diluted with water and the pH was adjusted to 4 with 1N aqueous hydrochloric acid solution. The product was extracted into methylene chloride, washed with water, dried and concentrated to an orange solid. Two crystallizations from chloroform provided 0.22 g of 3-[(2chlorophenyl)methyl]-2-propylthio-N-butyrylhistidine;

reactant | (2-chlorophenyl)methyl-2-propylthio-N-butyrylhistidine ethyl ester | 0.819 mmole, 0.37 g | C(C)OC([C@@H](N(C(CCC)=O)CC1=C(C=CC=C1)Cl)CC1=CNC(=N1)SCCC)=O | C22H30ClN3O3S
reactant | ethanol | 4 mL | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | water | 4 mL | O | H2O
product | 3-[(2chlorophenyl)methyl]-2-propylthio-N-butyrylhistidine | 0.22 g | ClC1=C(C=CC=C1)CN1C(=NC=C1C[C@H](NC(CCC)=O)C(=O)O)SCCC | C20H26ClN3O3S
